US07582769B2
A mixture of cis-4-aminocyclohexanol hydrochloride (4 mmol) and cyclohexanone (8 mmol) and molecular sieves (3 Å, 1 g) in anhydrous MeOH (10 mL) was stirred under N2 at room temperature for 10 min. The mixture was added NaBH3CN (8 mmol) and glacial AcOH (0.1 mL) and stirred for further 24 h. Addition of NaBH4 (1.3 mmol) followed by stirring for another 10 min. The mixture was filtered and the residue was extracted with MeOH (10 mL) and the combined filtrates were evaporated to dryness. The residue was dissolved in 1 M aqueous HCl (15 mL) and washed with TBME (15 mL). The aqueous phase was added 10% aqueous NaOH until pH 14 and extracted with TBME (15 mL). The organic phase was washed with H2O (10 ml), dried (Na2SO4), and evaporated to dryness under reduced pressure affording crude cyclohexyl-cis-(4-hydroxycyclohexyl)amine which was used in the next step without further purification.

reactant | cis-4-aminocyclohexanol hydrochloride | 4 mmol | Cl.N[C@H]1CC[C@H](CC1)O
reactant | cyclohexanone | 8 mmol | C1(CCCCC1)=O | C6H10O
reactant | NaBH3CN | 8 mmol | [BH3-]C#N.[Na+]
reactant | NaBH4 | 1.3 mmol | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | AcOH | 0.1 mL | CC(=O)O | C2H4O2
product | cyclohexyl-cis-(4-hydroxycyclohexyl)amine | C1(CCCCC1)N[C@@H]1CC[C@@H](CC1)O | C12H23NO
